US04764522
21.0 g of 5-bromo-2-furancarboxylic acid were suspended in 650 ml of toluene and 40 ml of thionyl chloride and the suspension was heated to reflux for 2 hours. The reaction solution was thereafter concentrated, whereby 5-bromo-2-furancarboxylic acid chloride was obtained as the residue.

reactant | 5-bromo-2-furancarboxylic acid | 21.0 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 650 ml | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-furancarboxylic acid chloride | BrC1=CC=C(O1)C(=O)Cl | C5H2BrClO2
